US05290801
Part A. A solution of 2-hydroxycyclohexanol (2.28 g, 0.02 mol), thiourea (1.52 g, 0.02 mol) and hexanol (30 ml), equipped with a column of 4Å sieves and a condenser, was heated to 160° for five hours under a nitrogen atmosphere. The reaction mixture was allowed to cool to ambient temperature and was concentrated in vacuo to give a solid. The solid was triturated with ethyl ether (3×50 ml) to give 4,5,6,7-tetrahydrobenzimidazol-2-thione (0.6 g, 0.0039 mol) which was not purified but was taken on to the next step as a crude solid.

reactant | 2-hydroxycyclohexanol | 0.02 mol, 2.28 g | OC1C(CCCC1)O | C6H12O2
reactant | thiourea | 0.02 mol, 1.52 g | NC(=S)N | CH4N2S
solvent | hexanol | 30 ml | C(CCCCC)O | C6H14O
product | 4,5,6,7-tetrahydrobenzimidazol-2-thione | 0.0039 mol, 0.6 g | N=1C(N=C2C1CCCC2)=S | C7H8N2S
